US05672567
To a suspension of 7.0 g of 5-bromopyrimidine in 150 ml of diethyl ether at -75° C., 20 ml of 2.5M butyl lithium in hexane were added while keeping the temperature below -50° C. The reaction mixture was then stirred at -75° C. for 1.5 hours. 7.66 g of 2-trifluoromethylbenzaldehyde were added while keeping the temperature below -50° C. and the reaction mixture was then stirred at -75° C. for one hour. The reaction mixture was then quenched with water. The resulting layers were separated. The aqueous layer was extracted again with diethyl ether. The combined organic layers were dried (MgSO4), filtered and concentrated to a yellow oil which turned orange upon standing overnight. Purification by column chromatography (silica gel), eluted first with a 1:1 mixture of hexane and diethyl ether, and then with diethyl ether, to yield 0.13 g of 5-(1-hydroxy-2,-trifluoromethylbenzyl)pyrimidine.

reactant | 5-bromopyrimidine | 7.0 g | BrC=1C=NC=NC1 | C4H3BrN2
reactant | butyl lithium | 2.5M, 20 ml | C(CCC)[Li]
reactant | 2-trifluoromethylbenzaldehyde | 7.66 g | FC(C1=C(C=O)C=CC=C1)(F)F | C8H5F3O
reactant | diethyl ether | 150 ml | C(C)OCC | C4H10O
solvent | hexane | CCCCCC | C6H14
product | 5-(1-hydroxy-2,-trifluoromethylbenzyl)pyrimidine | 0.13 g | OC1(CC=2C=NC=NC2)C(C=CC=C1)C(F)(F)F | C12H11F3N2O
